US03959322
Add to a solution of 1-diethylamino-6-phenylhex-2-yne (27.1 g) in concentrated sulphuric acid (7.6 cc) diluted with water (77 cc) at 70° mercuric sulphate (1.6 g), and keep the solution under nitrogen for one hour; cool, make basic with sodium hydroxide solution, and filter through glass wool to remove mercuric oxide. Extract the product with ether and evaporate the washed and dried ethereal solution, leaving crude 1-diethylamino-6-phenylhexan-3-one. Distil under reduced pressure with this ketoamine undergoing partial elimination of diethylamine, to obtain a mixture of the ketoamine, and 6-phenylhex-1-en-3-one (18.9 g), b.p. 96°/0.003 mm.

reactant | 1-diethylamino-6-phenylhex-2-yne | 27.1 g | C(C)N(CC#CCCCC1=CC=CC=C1)CC | C16H23N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 7.6 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 77 cc | O | H2O
product | 1-diethylamino-6-phenylhexan-3-one | C(C)N(CCC(CCCC1=CC=CC=C1)=O)CC | C16H25NO
